US08623898B2
1-Methyl-N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-1H-imidazole-4-carboxamide
A mixture of N-[3-(trifluoromethoxy)benzyl]tetrahydro-2H-pyran-4-amine (450 mg), 1-methyl-1H-imidazole-4-carboxylic acid (210 mg), EDC.HCl (320 mg), HOBt (250 mg) and acetonitrile (5 mL) was stirred at room temperature for an hour. Acetonitrile was distilled off under reduced pressure and an aqueous solution of 6 M sodium hydroxide was added. Extraction was conducted with ethyl acetate and the solvent was concentrated. The residue was purified by column chromatography (NH silica gel cartridge; ethyl acetate) to give the titled compound (90 mg).

reactant | N-[3-(trifluoromethoxy)benzyl]tetrahydro-2H-pyran-4-amine | 450 mg | FC(OC=1C=C(CNC2CCOCC2)C=CC1)(F)F | C13H16F3NO2
reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 210 mg | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | EDC.HCl | 320 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 250 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-Methyl-N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-1H-imidazole-4-carboxamide | 90 mg | CN1C=NC(=C1)C(=O)N(CC1=CC(=CC=C1)OC(F)(F)F)C1CCOCC1 | C18H20F3N3O3
